US06599902B2
3-(5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (1.37 g, 6.50 mmol) reacted with 1-methylpiperazine (719.6 mg, 7.15 mmol) to give 1.3 g (72%) of 3,5-dimethyl-4-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1H-pyrrole-2-carbaldehyde.

reactant | 3-(5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 6.50 mmol, 1.37 g | C(=O)C1=C(C(=C(N1)C)CCC(=O)O)C | C10H13NO3
reactant | 1-methylpiperazine | 7.15 mmol, 719.6 mg | CN1CCNCC1 | C5H12N2
product | 3,5-dimethyl-4-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1H-pyrrole-2-carbaldehyde | 1.3 g, 72% | CC1=C(NC(=C1CCC(=O)N1CCN(CC1)C)C)C=O | C15H23N3O2
